US08802679B2
6-Chloronicotinic acid was dissolved in N,N-dimethylacetamide (10 ml), and tert-butyl piperazine-1-carboxylate (1.2 g) and DIPEA (1.6 g) were added thereto, followed by stirring at 130° C. for 3 days. The reaction mixture was concentrated under reduced pressure, and to the obtained residue was added a 1 M aqueous NaOH solution, followed by washing with CHCl3. The pH of the aqueous layer was adjusted to around 6 to 7 by the addition of 1 M hydrochloric acid, followed by extraction with CHCl3. The organic layer was dried over Na2SO4 and the solvent was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (CHCl3/MeOH) to obtain 6-[4-(tert-butoxycarbonyl)piperazin-1-yl]nicotinic acid (934 mg).

reactant | 6-Chloronicotinic acid | ClC1=NC=C(C(=O)O)C=C1 | C6H4ClNO2
reactant | tert-butyl piperazine-1-carboxylate | 1.2 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | DIPEA | 1.6 g | CCN(C(C)C)C(C)C | C8H19N
solvent | N,N-dimethylacetamide | 10 ml | CN(C(C)=O)C | C4H9NO
product | 6-[4-(tert-butoxycarbonyl)piperazin-1-yl]nicotinic acid | 934 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=C(C(=O)O)C=C1 | C15H21N3O4
